US06884774B2
To a solution of 4-[1-(tert-butoxycarbonyl)-4-piperidyl]benzoic acid (3.64 g) and 1-hydroxybenzotriazole (2.73 g) in dichloromethane (40 ml) was added 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride (WSCD-HCl) (4.56 g) and the mixture was stirred at ambient temperature for 3 hours. To the reaction mixture was added water (20 ml) and an organic layer was separated and washed with saturated aqueous sodium chloride, dried over magnesium sulfate and evaporated in vacuo. A solution of the resulting residue in THF (30 ml) was added to a solution of conc. ammonium hydroxide (10 ml) in THF (30 ml) at ambient temperature and the mixture was stirred at the same temperature for 1 hour. To a reaction mixture was added ethyl acetate (200 ml) and the organic layer was separated, washed with saturated aqueous sodium chloride, dried over magnesium sulfate and evaporated in vacuo. The precipitate was chromatographed on silica gel (200 ml) eluting with a mixture of dichloromethane and methanol (9:1 v/v). The fractions containing the desired compound were collected and evaporated under reduced pressure to give tert-butyl 4-[4-(aminocarbonyl)phenyl]-1-piperidinecarboxylate (3.34 g).

reactant | 4-[1-(tert-butoxycarbonyl)-4-piperidyl]benzoic acid | 3.64 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C(=O)O)C=C1 | C17H23NO4
reactant | 1-hydroxybenzotriazole | 2.73 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride | 4.56 g | Cl.C(C)N=C=NCCCN(C)C
reactant | water | 20 ml | O | H2O
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | tert-butyl 4-[4-(aminocarbonyl)phenyl]-1-piperidinecarboxylate | 3.34 g | NC(=O)C1=CC=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C17H24N2O3
